US07829580B2
(E)-3-{[1-(2-Carboxyethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1213)
To (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride (500 mg) was added 3 N aqueous hydrochloric acid solution (20 ml) and the resulting mixture was stirred at 50° C. for 3 hours. After the reaction mixture was concentrated under reduced pressure, the residue was purified using preparative HPLC [YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N aqueous hydrochloric acid solution (25:75, v/v)] to afford the title compound (410 mg, yield: 87%) as a pale colourless amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-1,2,3-triazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 500 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=CN=NN1CCC(=O)OCC)=O
reactant | hydrochloric acid | 3 N, 20 ml | Cl | ClH
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (E)-3-{[1-(2-Carboxyethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 410 mg, yield: 87% | Cl.C(=O)(O)CCN1N=NC=C1\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H25FN4O3S.ClH/c23-18-4-2-1-3-17(18)21(22(30)14-5-6-14)26-9-7-19(31)15(13-26)11-16-12-24-25-27(16)10-8-20(28)29;/h1-4,11-12,14,19,21,31H,5-10,13H2,(H,28,29);1H/b15-11+;
